US04049375
484 parts of N-ethylaniline, 106 parts of sodium carbonate and 254 parts of 2,2,2-trifluoro-ethyl tosylate are heated for 48 hours at 190°-200° C. The cooled reaction mixture is diluted with 1000 parts by volume of distilled water and acidified with sulphuric acid until it is distinctly acid to Congo red paper. The N-ethyl-N-(2,2,2-trifluoro-ethyl)-aniline which is formed is then steam distilled. The lower organic layer of the distillate is separated and subjected to distillation under reduced pressure. 182 parts of N-ethyl-N-(2,2,2-trifluoro-ethyl)-aniline are thus obtained, distilling at 53°-54° C. under 1 mm of mercury, of which the elementary analysis is as follows:

reactant | N-ethylaniline | C(C)NC1=CC=CC=C1 | C8H11N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2,2-trifluoro-ethyl tosylate | S(=O)(=O)(OCC(F)(F)F)C1=CC=C(C)C=C1 | C9H9F3O3S
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | N-ethyl-N-(2,2,2-trifluoro-ethyl)-aniline | C(C)N(C1=CC=CC=C1)CC(F)(F)F | C10H12F3N
